US07648997B2
Acetone (444 mg, 7.65 mmol) was added to a solution of 1-[4-(aminooxy)butyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.53 mmol), prepared as described in Parts A-C of Example 71, in methanol (7 mL), and the reaction was stirred overnight at room temperature. The solvent was removed under reduced pressure and then further dried under high vacuum to provide 358 mg of acetone O-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]oxime as a white solid, mp 115-117° C.

reactant | Acetone | 7.65 mmol, 444 mg | CC(=O)C | C3H6O
reactant | 1-[4-(aminooxy)butyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.53 mmol, 0.500 g | NOCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5O
solvent | methanol | 7 mL | CO | CH4O
product | acetone O-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]oxime | 358 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCON=C(C)C)CCCC | C21H29N5O
